US04977146
trans-2-[3-(2-Aminoethylsulfonyl)-4,5-dipropoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran.
Ammonia was bubbled into a solution of trans-2-(3-vinylsulfonyl-4,5-dipropoxyphenyl)-5-(3,4,5-trimethoxy-phenyl)tetrahydrofuran (30 mg, 0.06 mmol) at 0.5° C. for 3 min in acetonitrile (3 mL). The solution was then heated at 65° C. in a pressure bottle overnight, cooled, and evaporated to dryness. Purification by preparative TLC (CHCl3 -MeOH; 95:5, v/v) gave the title compound MS, m/z 538 (M+1)+. ; Rf 0.27; NMR (CDCl3) δ 1.05 & 1.09 (2 t J=7.5 Hz, 2 CH2CH2CH3), 3.58 (bt, SO2CH2CH2), 4.02 & 4.14 (2 t, J=6.5 Hz, 2 CH2CH2CH3), 5.16-5.28 (m, H-2 & H-5), 6.63 (s, 2 H, C5ArH), 7.27 & 7.48 (2 d, J=1.5 Hz, 2 H, C2ArH).

reactant | Ammonia | N | H3N
reactant | trans-2-(3-vinylsulfonyl-4,5-dipropoxyphenyl)-5-(3,4,5-trimethoxy-phenyl)tetrahydrofuran | 0.06 mmol, 30 mg | C(=C)S(=O)(=O)C=1C=C(C=C(C1OCCC)OCCC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C27H36O8S
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | trans-2-[3-(2-Aminoethylsulfonyl)-4,5-dipropoxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydrofuran | NCCS(=O)(=O)C=1C=C(C=C(C1OCCC)OCCC)[C@@H]1O[C@H](CC1)C1=CC(=C(C(=C1)OC)OC)OC | C27H39NO8S
